US05451601
A solution of 1 g of (3aR,4S,7aR)-2-tert-butyloxycarbonyl-7,7-diphenyl-4-perhydroisoindolol in 10 cm3 of thionyl chloride is stirred for 3 hours at 80° C. The reaction mixture is then concentrated to dryness under reduced pressure (2.7 kPa). 1.03 g of (3aR,7S,7aR)-2-tert-butyloxycarbonyl-7-chloro-4,4-diphenylperhydroisoindole are obtained in the form of a solid which is used in the crude state in the next test.

reactant | (3aR,4S,7aR)-2-tert-butyloxycarbonyl-7,7-diphenyl-4-perhydroisoindolol | 1 g | C(C)(C)(C)OC(=O)N1C[C@H]2C(CC[C@@H]([C@H]2C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO3
reactant | thionyl chloride | 10 cm3 | S(=O)(Cl)Cl | Cl2OS
product | (3aR,7S,7aR)-2-tert-butyloxycarbonyl-7-chloro-4,4-diphenylperhydroisoindole | 1.03 g | C(C)(C)(C)OC(=O)N1C[C@@H]2[C@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C25H30ClNO2
